US04992438
A 28% methanol solution of sodium methylate (1.5 g) was added to a solution of 1.5 g of 4-chloro-2-(4-chloroanilino)-6-methylpyrimidine in 50 ml of dimethylformamide and the mixture was stirred for 2 hours at 70° C. After completion of the reaction, the reaction mixture was poured into water, extracted with 150 ml of toluene, washed with water, dried over Glauber's salt, and the toluene layer was concentrated by evaporation. The residue was purified by silica gel column chromatography to obtain 1.3 g (yield: 88%) of 2-(4-chloroanilino)-4-methoxy-6-methylpyrimidine having a melting point of 101°-103° C.

reactant | methanol | CO | CH4O
reactant | sodium methylate | 1.5 g | C[O-].[Na+]
reactant | 4-chloro-2-(4-chloroanilino)-6-methylpyrimidine | 1.5 g | ClC1=NC(=NC(=C1)C)NC1=CC=C(C=C1)Cl | C11H9Cl2N3
reactant | water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-(4-chloroanilino)-4-methoxy-6-methylpyrimidine | 1.3 g, yield: 88% | ClC1=CC=C(NC2=NC(=CC(=N2)OC)C)C=C1 | C12H12ClN3O
